US08580841B2
Step G: Preparation of 2-(7-(3-Cyano-4-cyclohexylbenzyloxy)-1,2,3,4-tetrahydrocyclopenta[b]indol-3-yl)acetic Acid.
To a solution of ethyl 2-(7-(3-cyano-4-cyclohexylbenzyloxy)-1,2,3,4-tetrahydrocyclopenta[b]indol-3-yl)acetate (185.3 mg, 0.406 mmol) in 1,4-dioxane (5.0 mL) was added 1 M aqueous LiOH solution (1.22 mL, 1.22 mmol). The mixture was stirred at room temperature for 5 h. The mixture was concentrated under reduced pressure. The residue was dissolved in ethyl acetate and then acidified with 1 N aqueous HCl acid solution to pH 4. The organic layer was separated, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The concentrate was triturated with dichloromethane to provide the title compound as a pink solid (98.9 mg). LCMS m/z=429.6 [M+H]+; 1H NMR (400 MHz, DMSO-d6) δ ppm 1.21-1.31 (m, 1H), 1.33-1.54 (m, 4H), 1.68-1.74 (m, 1H), 1.74-1.88 (m, 4H), 2.08 (dd, J=4.93, 3.54 Hz, 1H), 2.34 (dd, J=16.04, 8.97 Hz, 1H), 2.61-2.76 (m, 4H), 2.81-2.89 (m, 1H), 3.45 (bs, 1H), 5.07 (s, 2H), 6.70 (dd, J=8.78, 2.46 Hz, 1H), 6.91 (d, J=2.40 Hz, 1H), 7.19 (d, J=8.72 Hz, 1H), 7.52 (d, J=8.08 Hz, 1H), 7.72 (dd, J=8.15, 1.71 Hz, 1H), 7.81 (d, J=1.52 Hz, 1H), 10.46 (s, 1H), 12.18 (bs, 1H).

reactant | ethyl 2-(7-(3-cyano-4-cyclohexylbenzyloxy)-1,2,3,4-tetrahydrocyclopenta[b]indol-3-yl)acetate | 0.406 mmol, 185.3 mg | C(#N)C=1C=C(COC2=CC=3C4=C(NC3C=C2)C(CC4)CC(=O)OCC)C=CC1C1CCCCC1 | C29H32N2O3
reactant | LiOH | 1.22 mmol, 1 M, 1.22 mL | [Li+].[OH-]
solvent | 1,4-dioxane | 5.0 mL | O1CCOCC1 | C4H8O2
product | 2-(7-(3-Cyano-4-cyclohexylbenzyloxy)-1,2,3,4-tetrahydrocyclopenta[b]indol-3-yl)acetic Acid | 98.9 mg | C(#N)C=1C=C(COC2=CC=3C4=C(NC3C=C2)C(CC4)CC(=O)O)C=CC1C1CCCCC1 | C27H28N2O3
